US08304552B2
Separately, nicotinic acid (246 mg, 2.0 mmol) was taken up in CH3CN (10 mL) along with tert-butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate (503 mg, 2.0 mmol), EDCI (422 mg, 2.2 mmol). The resulting reaction mixture was stirred at room temperature for 4 h and then diluted with EtOAc. The organic layer was washed with dilute aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by silica gel chromatography (CH2Cl2) afforded tert-butyl 2-(2-(2-(nicotinamido)ethyl)disulfanyl)ethylcarbamate (400 mg, 56%).

reactant | nicotinic acid | 2.0 mmol, 246 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | tert-butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate | 2.0 mmol, 503 mg | NCCSSCCNC(OC(C)(C)C)=O | C9H20N2O2S2
reactant | EDCI | 2.2 mmol, 422 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(2-(2-(nicotinamido)ethyl)disulfanyl)ethylcarbamate | 400 mg, 56% | C(C1=CN=CC=C1)(=O)NCCSSCCNC(OC(C)(C)C)=O | C15H23N3O3S2
